US07888079B2
Production of Nε-Lauroyl-L-Lysine
Ten (10) U of the enzyme of the present invention was added in 100 mM Tris-HCl buffer (pH 7.0) to L-lysine hydrochloride (final concentration of 1 M) and lauric acid (final concentration of 15 mM), and reacted for 3 hours at 45° C. The reaction solution was analyzed by HPLC (YMC-Pack ODS 150×4.6 mm, eluent: 35% acetonitrile solution, pH 2.8, flow rate: 0.8 mL/min). The synthesis yield was about 88% based on fatty acids.

reactant | L-lysine hydrochloride | Cl.N[C@@H](CCCCN)C(=O)O
reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | Tris-HCl | 100 mM, pH 7.0 | C(C(CO)(CO)N)O.Cl
product | Nε-Lauroyl-L-Lysine | yield was about 88% | C(CCCCCCCCCCC)(=O)NCCCC[C@H](N)C(=O)O | C18H36N2O3
